US06162791
To an ice-cooled solution of 5-amino-3-methoxy-[1,2,4]thiadiazole (1.31 g, 10 mmol) and N-carbobenzyloxy-L-phenylalanine, (Cbz-L-phe-OH 2.99 g, 10 mmol) in DMF (100 mL) was added 1,3-dicyclohexylcarbodiimide (2.06 g, 10 mmol) followed by 1-hydroxybenzotriazole hydrate (1.35 g, 10 mmol). The resulting mixture was stirred at room temperature for 16 h. The mixture was diluted with ethyl acetate (250 mL) and water (200 mL). The organic layer was collected and successively washed with a solution of 1N HCl (15 mL), water, a saturated solution of sodium bicarbonate, and water. The organic layer was dried (sodium sulfate), filtered and concentrated in vacuo. Purification by column chromatography using a solvent mixture of hexane and ethyl acetate (3/1) afforded 3-methoxy-5-(N-carbobenzyloxy-L-phenylalaninamido)-[1,2,4]thiadiazole as a colorless oil. Crystallization from ether and hexane gave the product as a white solid (1.1 g, 26.7%). 1H-NMR (CDCl3) δ12.50 (s, 1H, NH), 7.06-7.35 (m, 10H, Ar-H), 6.02 (br. d, J=7.6 Hz, 1H, NH), 5.19-5.22 (m, 1H, CH), 5.11 (s, 2H, OCH2), 4.05 (s, 3H, OMe), 3.11-3.20 (m, 2H, CHCH2Ar); MS (m/z) 413 (M+ +1), 369, 222, 210, 132, 91.

reactant | 5-amino-3-methoxy-[1,2,4]thiadiazole | 10 mmol, 1.31 g | NC1=NC(=NS1)OC | C3H5N3OS
reactant | N-carbobenzyloxy-L-phenylalanine | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC1=CC=CC=C1)C(=O)O | C17H17NO4
reactant | 1,3-dicyclohexylcarbodiimide | 10 mmol, 2.06 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-hydroxybenzotriazole hydrate | 10 mmol, 1.35 g | O.ON1N=NC2=C1C=CC=C2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 200 mL | O | H2O
product | 3-methoxy-5-(N-carbobenzyloxy-L-phenylalaninamido)-[1,2,4]thiadiazole | COC1=NSC(=N1)N(C([C@@H](N)CC1=CC=CC=C1)=O)C(=O)OCC1=CC=CC=C1 | C20H20N4O4S
